US04011319
A solution of 3.5 g. (0.0129 mol) of N-[2-(3-methoxyphenyl)ethyl]-2-phenyl-2-hydroxyethylamine in 40 ml. of 48% hydrobromic acid is refluxed for two hours and then concentrated to dryness. The solid residue (equal mixture of 7-hydroxy and 9-hydroxy benzazepines) is chromatographed on a silica gel column, eluting with methanol in chloroform to first remove the 7-hydroxy isomer and then to yield the product 9-hydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 134°-150° C. (int.).

reactant | N-[2-(3-methoxyphenyl)ethyl]-2-phenyl-2-hydroxyethylamine | 0.0129 mol | COC=1C=C(C=CC1)CCNCC(O)C1=CC=CC=C1 | C17H21NO2
reactant | hydrobromic acid | Br | BrH
product | 9-hydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=CC=CC2=C1C(CNCC2)C2=CC=CC=C2 | InChI=1S/C16H17NO.BrH/c18-15-8-4-7-13-9-10-17-11-14(16(13)15)12-5-2-1-3-6-12;/h1-8,14,17-18H,9-11H2;1H
